Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Lipitor / latex
 
Attending: ___.
 
Chief Complaint:
splenic artery aneurysm
 
Major Surgical or Invasive Procedure:
angio w/ coiling of splenic artery aneurysm

 
History of Present Illness:
Ms. ___ is a ___ w/ ESRD on HD MWF w/ incidentally found 
distal splenic artery aneurysm.  She was last seen in clinic on 
___ and had another CTA that showed 2.5 cm saccular 
aneurysm arising from the distal splenic artery.  She has been 
asymptomatic and denies any abdominal pain.  Of note, she was 
removed from txp list until this aneurysm has been treated. She 
presented to ___ on ___ for treatment with angio with 
coiling of the of the splenic artery aneurysm.

 
Past Medical History:
PMH:
hypertension, myocardial infarction, cerebrovascular disease,
pancreatitis, liver disease, cholecystitis.

PSH:
R breast excisional biopsy, parathyroidectomy, T&A, ERCP
 
Social History:
___
Family History:
Relative Status   Age Problem              Onset Comments       
Mother   Living   ___  LUNG CANCER                               

Father   ___ ___  BLADDER CANCER                            

MGF                   COLON CANCER                              

PGM                   STOMACH CANCER                            

PGF      Deceased ___                                            

Sister                HODGKINS             ,                    
                      BREAST CANCER                             

Brother  Living                                                 

Brother  Living                                                 

Comments: 
 
Physical Exam:
Exam at time of discharge:

Vitals: temp 98.4, HR 92, BP 139/76, RR 18, SpO2 91% on RA
GEN: A&O, NAD
HEENT: No scleral icterus, mucus membranes moist
CV: regular rate and rhythm 
PULM: breathing comfortably on RA, no audible wheezing
ABD: Soft, non tender, non distended
Ext: no edema, groing site c/d/i
Pulses: b/l palpable ___ and DP
 
Pertinent Results:
___ 04:30AM BLOOD WBC-11.1* RBC-3.15* Hgb-10.8* Hct-34.9 
MCV-111* MCH-34.3* MCHC-30.9* RDW-13.1 RDWSD-53.3* Plt ___
___ 04:30AM BLOOD Glucose-162* UreaN-42* Creat-5.9*# Na-138 
K-5.6* Cl-98 HCO3-26 AnGap-14
___ 04:30AM BLOOD Calcium-10.4* Phos-5.5* Mg-2.6

Imaging
===========

Final Report 
EXAMINATION:  CTA ABD AND PELVIS 
  
FINDINGS:  
  
VASCULAR: 
Streak artifact from aneurysm coiling in the splenic artery 
limits evaluation of that area.  There is a patent splenic 
artery leading up to the first coil(601; 54).  A single coil is 
seen within the splenic parenchyma.  There is no abdominal 
aortic aneurysm.  Hepatic arterial anatomy is conventional.  
There are 2 right renal arteries and 1 left renal artery.  The 
hepatic veins, portal vein, SMV, and visualized splenic vein are 
patent. There is no abdominal aortic aneurysm.  There is minimal 
calcium burden in the abdominal aorta and great abdominal 
arteries. 
  
LOWER CHEST: Mild atelectasis is noted in the lung bases. There 
is no pleural or pericardial effusion. 
  
ABDOMEN: 
  
HEPATOBILIARY: The liver demonstrates homogenous attenuation 
throughout.  
Multiple hypodense hepatic lesions are seen measuring up to 1.4 
cm in segment II are compatible with hepatic cysts.  There is 
mild focal fatty infiltration at the falciform ligament (303; 
48).  Additional subcentimeter hypodense lesions segment IV B 
(303; 48) is too small to characterize but also likely 
represents a biliary hamartoma or cyst. There is no evidence of 
intrahepatic or extrahepatic biliary dilatation.  There is 
vicarious excretion of contrast into the gallbladder.  The 
gallbladder is  without stones or gallbladder wall thickening. 
  
PANCREAS: There is limited visualization of the pancreatic tail 
by streak 
artifact from the coils.  A 1.0 x 0.7 x 1.6 cm cluster of 
hypodense lesions in the pancreatic uncinate process likely 
represents a side branch IPMNs, similar to prior (301; 74).  
Additional 0.6 cm hypodense lesions in the pancreatic head 
likely represents side branch IPMN (601; 40, 41).  The pancreas 
has normal attenuation throughout, without pancreatic ductal 
dilatation. There is no peripancreatic stranding. 
  
SPLEEN: The spleen is normal in size.  There is a large infarct 
in the spleen with residual perfusion of the anterolateral 
inferior pole and the 
posteromedial aspect ___ 30). 
  
ADRENALS: The right and left adrenal glands are normal in size 
and shape. 
  
URINARY: Bilateral kidneys are severely atrophic with multiple 
innumerable 
bilateral hypodense lesions likely renal cysts measuring up to 
2.0 cm in the right midpole and 1.9 cm in the left upper pole.  
There is no nephrolithiasis or hydronephrosis.  There is no 
perinephric stranding.  There are punctate bilateral 
calcifications throughout the kidneys, similar to prior. 
  
GASTROINTESTINAL: The stomach is unremarkable.  Small bowel 
loops demonstrate normal caliber, wall thickness, and 
enhancement throughout. Diverticulosis of the sigmoid colon is 
noted, without evidence of wall thickening or fat stranding. The 
appendix is normal. 
  
RETROPERITONEUM: There is no evidence of retroperitoneal 
lymphadenopathy. 
  
PELVIS: The urinary bladder and distal ureters are unremarkable. 
 There is no evidence of pelvic or inguinal lymphadenopathy.  
There is no free fluid in the pelvis. 
  
REPRODUCTIVE ORGANS: Uterus is unremarkable. The left ovary 
measures 1.9 x 3.3 x 3.0 cm with volume of 10cc, more enlarged 
compared to the right, without discrete lesion. 
  
There is a Gartner's duct cyst. 
  
BONES: There is no evidence of worrisome osseous lesions or 
acute fracture.  Chronic fracture deformities are noted in 
bilateral inferior pubic rami with a 2.6 x 3.8 cm density with 
heterotopic calcification adjacent to the left ischium which may 
represent a resolving hematoma within in the left obturator 
internus muscle, similar to prior.  Diffuse sclerosis of the 
bones with increased sclerosis of the endplates and loss of 
trabeculae suggests renal osteodystrophy.  There is mild 
multilevel degenerative changes most notable at L1-L2 with loss 
of disc space and endplate osteophyte formation as well as grade 
1 retrolisthesis of L1 on L2. 
  
SOFT TISSUES: Air and stranding in the right inguinal region 
likely 
corresponds to recent right femoral access.  There is a tiny 
umbilical hernia containing fat. 
  
IMPRESSION:  
1. Status post splenic artery aneurysm coiling with a single 
coil within the spleen and a large area of splenic infarct.  
There are two areas of residual perfusion in the anterolateral 
and posteromedial spleen. 
2. Asymmetric enlargement of the left ovary without discrete 
lesion, nonurgent pelvic ultrasound is recommended. 
3. Pancreatic cystic lesions measuring up to 1.6 cm likely side 
branch IPMN, see below recommendations 
4. Diffuse sclerosis with increased sclerosis of the endplates 
suggest renal osteodystrophy. 
  
RECOMMENDATION(S):  1) nonurgent pelvic ultrasound. 
2) for pancreatic cysts measuring more than 1.5cm, patients 
should be referred to the pancreas cyst clinic for consultation. 
These referrals can be made by emailing 
___ or by calling 
___. 
  
For cysts measuring up to 1.5 cm: 
(a) These guidelines apply only to incidental findings, and not 
to patients who are symptomatic, have abnormal blood tests, or 
have history of pancreas neoplasm resection. 
(b) Clinical decisions should be made on a case-by-case basis 
taking into 
account patient's comorbidities, family history, willingness to 
undergo 
treatment, and risk tolerance. 
  
Local ___ follow-up guidelines adopted from: 
___ 
  
NOTIFICATION:   The findings were discussed with ___ 
___, m.D. by ___ 
___, M.D. on the telephone on ___ at 10:14 am, 5 minutes 
after 
discovery of the findings. 
  
BY ELECTRONICALLY SIGNING THIS REPORT, I THE ATTENDING PHYSICIAN 
ATTEST THAT ___ HAVE REVIEWED THE ABOVE IMAGES FOR THE ABOVE 
EXAMINATION(S) AND AGREE WITH THE FINDINGS AS DOCUMENTED ABOVE. 
  
___, MD 
___, MD 
___, MD 

 
Brief Hospital Course:
Ms. ___ is a ___ w/ ESRD on HD MWF w/ incidentally found 
distal splenic artery aneurysm who presents for angio w/ coiling 
of splenic artery aneurysm.

The patient was treated for her splenic artery aneurysm with an 
angiogram procedure with coiling of the splenic artery aneurysm. 
She tolerated the procedure well. Had some minor post-anesthesia 
nausea which responded to ___ and completely resolved 
overnight. She had post-procedure imaging which showed that part 
of the spleen was infarcted, but there were still areas of the 
spleen receiving blood flow and therefore vaccinations were not 
indicated and were not given to the patient. The CT scan also 
demonstrated asymmetric enlargement of the left ovary without 
discrete lesion and a pancreatic cystic lesions measuring up to 
1.6 cm likely side branch IPMN. The patient was informed of all 
of these findings and all of her questions were answered.  She 
was informed to follow up with her PCP regarding the ovarian 
finding for further imaging with U/S and to follow up in 
pancreas cyst clinic for consultation, for which an appointment 
was made for her, regarding the pancreatic cyst finding.  

No chronic issues were addressed during her stay. She remained 
on all of her home medications. In regards to her ESRD, she was 
discharged on post-operative day 1 with time for her to make her 
___ dialysis appointment in the afternoon. She was 
also started on aspirin 81mg for anti-platelet therapy. At time 
of discharge, she was doing well tolerating a regular diet, pain 
well controlled, and ambulating at her baseline. 

She will need follow up in ___ clinic with Dr. ___ 
in one month for a clinic visit and imaging for interval 
assessment.  She will also need to follow up with her PCP and 
the pancreatic cyst clinic.  All plans were discussed with the 
patient and she was in agreement and expressed understanding 
regarding the treatment and follow up plans.  

 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
further investigation.
1. Acetaminophen 325 mg PO Q6H:PRN Pain - Mild/Fever 
2. Gabapentin 100 mg PO DAILY 
3. OLANZapine 20 mg PO DAILY 
4. raloxifene 60 mg oral DAILY 
5. Ranitidine 150 mg PO BID 
6. Simvastatin 10 mg PO QPM 
7. Ferrous Sulfate 325 mg PO BID 
8. rOPINIRole 0.25 mg PO TID 
9. sevelamer HYDROCHLORIDE 1600 mg oral TID W/MEALS 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY 
RX *aspirin [Adult Low Dose Aspirin] 81 mg 1 tablet(s) by mouth 
once a day Disp #*30 Tablet Refills:*3 
2.  Cinacalcet 90 mg PO DAILY  
3.  Escitalopram Oxalate 20 mg PO DAILY  
4.  glucosamine sulfate 1250 mg oral BID  
5.  Acetaminophen 325 mg PO Q6H:PRN Pain - Mild/Fever  
6.  Ferrous Sulfate 325 mg PO BID  
7.  Gabapentin 100 mg PO DAILY  
8.  OLANZapine 20 mg PO DAILY  
9.  raloxifene 60 mg oral DAILY  
10.  Ranitidine 150 mg PO BID  
11.  rOPINIRole 0.25 mg PO QPM  
12.  sevelamer HYDROCHLORIDE 1600 mg oral TID W/MEALS  
13.  Simvastatin 10 mg PO QPM  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
splenic artery aneurysm

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You presented to ___ to undergo an angiogram to place a coil 
in your splenic artery aneurysm. You tolerated the procedure 
well and were observed in the hospital overnight.  On 
post-operative day 1, you underwent imaging to evaluate your 
splenic blood flow after the operation.  The imaging indicated 
that your part of your spleen was infarcted, but there were 
still areas of your spleen receiving blood flow and therefore 
you did not require any vaccinations. The CT scan also showed 
some incidental findings:  enlargement of your left ovary for 
which pelvic ultrasound is recommended, and a pancreatic cyst 
lesion measure up to 1.6cm for which it is recommended for you 
to go to the pancreas cyst clinic for further evaluation and 
management. Please follow up with your PCP in regards to your 
left ovary findings on CT and please follow up in pancreas cyst 
clinic for consultation (an appointment has been made for you, 
if you have any issues or need to reschedule please call 
___. You were recovering well from your procedure and 
were discharged on post-operative day 1 with instructions to 
follow up in clinic with Dr. ___ in one month.

In regards to care following you angio with coiling of the 
splenic artery aneurysm please follow the instructions below:

MEDICATIONS:
• Take Aspirin 81 mg (enteric coated) once daily** (this is a 
new medication that was started)
• Do not stop Aspirin unless your Vascular Surgeon instructs you 
to do so. 
• Continue all other medications you were taking before surgery, 
unless otherwise directed
• You make take Tylenol or prescribed pain medications for any 
post procedure pain or discomfort

DIET:
• Drink plenty of fluids and eat small frequent meals
• It is important to eat nutritious food options (high fiber, 
lean meats, vegetables/fruits, low fat, low cholesterol) to 
maintain your strength and assist in wound healing
• To avoid constipation: eat a high fiber diet and use stool 
softener while taking pain medication

ACTIVITIES:
• When you go home, you may walk and go up and down stairs
• You may shower (let the soapy water run over groin incision, 
rinse and pat dry)
• Your incision may be left uncovered, unless you have small 
amounts of drainage from the wound, then place a dry dressing or 
band aid over the area that is draining, as needed
• No heavy lifting, pushing or pulling (greater than 5 lbs) for 
1 week (to allow groin puncture to heal)
• After 1 week, you may resume sexual activity
• After 1 week, gradually increase your activities and distance 
walked as you can tolerate

CALL THE OFFICE FOR: ___
• Temperature greater than 101.5F for 24 hours
• New or increased drainage from incision or white, yellow or 
green drainage from incisions
• Bleeding from groin puncture site

FOR SUDDEN, SEVERE BLEEDING (Groin puncture site or incision) OR 
ABD PAIN 
• Lie down, keep leg straight and have someone apply firm 
pressure to area for 10 minutes. If bleeding stops, call 
vascular office. If bleeding does not stop, call ___ for 
transfer to closest Emergency Room. 

Followup Instructions:
___